US03948987
2-Nitro-5-phenylthiobenzotrifluoride
A solution of 2-nitro-5-chlorobenzotrifluoride (33.8 g, 0.15 mole), benzenethiol (16.6 g, 0.15 mole) and ethanol (150 ml) is heated to its reflux temperature under nitrogen. To this solution is slowly added a solution of sodium hydroxide (6 g, 0.15 mole) and water (7 ml) at such a rate that refluxing continues with no external heating. the solution is then heated at its reflux temperature for an additional two hours, filtered hot and the filtrate cooled. The resulting precipitate is collected by filtration and recrystallized from hexene to afford a yellow solid, m.p. 65°-67° C.

reactant | 2-nitro-5-chlorobenzotrifluoride | 0.15 mole, 33.8 g | [N+](=O)([O-])C1=C(C=C(C=C1)Cl)C(F)(F)F | C7H3ClF3NO2
reactant | benzenethiol | 0.15 mole, 16.6 g | C1(=CC=CC=C1)S | C6H6S
reactant | ethanol | 150 ml | C(C)O | C2H6O
reactant | sodium hydroxide | 0.15 mole, 6 g | [OH-].[Na+]
solvent | water | 7 ml | O | H2O
product | 2-Nitro-5-phenylthiobenzotrifluoride | [N+](=O)([O-])C1=C(C=C(C=C1)SC1=CC=CC=C1)C(F)(F)F | C13H8F3NO2S
